US07132449B2
A solution of phosgene (33.6 ml, 20% in toluene) was added to 3-cyclohexyl-2S-hydroxypropionic acid methyl ester (compound (11), 0.7 g, 4.03 mmol) followed by 6 drops of dimethylformamide. The mixture was stirred at ambient temperature for 16 hours then the solvents removed in vacuo. The residue was azeotroped with toluene (3×20 ml), and dissolved in anhydrous dichloromethane (11 ml). The solution was cooled to 0° C. then morpholine (0.86 g, 9.85 mmol) added. The mixture was stirred for 2 hours then partitioned between dichloromethane (30 ml) and 0.5M hydrochloric acid (30 ml). The dichloromethane layer was washed with saturated aqueous sodium hydrogen carbonate solution (30 ml), saturated aqueous sodium chloride solution (30 ml), dried (Na2SO4) and the solvent removed in vacuo. The residue was purified by chromatography over silica gel eluting with ethyl acetate:heptane 1:1. Appropriate fractions were combined and the solvents removed in vacuo to leave morpholine-4-carboxylic acid 2S-cyclohexyl-1-methoxycarbonylethyl ester (0.13 g, 10%) as an oil. A solution of lithium hydroxide monohydrate (17.5 mg, 0.418 mmol) in water (0.76 ml) was added to an iced-water chilled solution of morpholine-4-carboxylic acid 2-cyclohexyl-1-methoxycarbonylethyl ester (110 mg, 0.367 mmol) in dioxane (1.5 ml). The mixture was stirred at ambient temperature for 1 hour then diluted with water (10 ml). The aqueous layer was extracted with diethyl ether (2×110 ml) which was discarded, then acidified to pH=2 with 6M hydrochloric acid. The product was extracted into diethyl ether (2×10 ml), then the combined ethereal layers washed with saturated aqueous sodium chloride (10 ml), dried (MgSO4) and the solvent removed in vacuo to give morpholine-4-carboxylic acid 1-carboxy-2-cyclohexylethyl ester as a white solid, yield 0.11 g, (100% from ester). TLC (single spot, Rf=0.20, methanol:dichloromethane 1:9), HPLC-MS (single main peak with Rt=7.614 mins, 286.2 [M+H]+, 287.2 [M+2H]+, 593.3 [2M+Na]+).

reactant | lithium hydroxide monohydrate | 0.418 mmol, 17.5 mg | O.[OH-].[Li+]
reactant | morpholine-4-carboxylic acid 2-cyclohexyl-1-methoxycarbonylethyl ester | 0.367 mmol, 110 mg | C1(CCCCC1)CC(C(=O)OC)OC(=O)N1CCOCC1 | C15H25NO5
solvent | water | 0.76 ml | O | H2O
solvent | dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
solvent | water | 10 ml | O | H2O
product | morpholine-4-carboxylic acid 1-carboxy-2-cyclohexylethyl ester | C(=O)(O)C(CC1CCCCC1)OC(=O)N1CCOCC1 | C14H23NO5
